data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_149994_2,[C@:1]([C:2]([H:13])([H:14])[H:15])([C:6](=[O:8])[H:12])(/[N:7]=[C:4](\[C:3]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])[H:9]>>[C@:1]1([C:2]([H:13])([H:14])[H:15])([H:9])[C@@:4]([C:3]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[N:7]1[C:6](=[O:8])[H:12],70.17583499999219
MR_17219_0,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4](/[C:5](=[N:6]\[C:2]([H:11])([H:12])[H:13])[H:8])[H:7])([H:9])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:6]([C:2]([H:11])([H:12])[H:13])/[C:5](=[N:4]/[H:7])[H:8])([H:9])[H:10],71.0587274999746
MR_104776_0,[C:1]([O:6][N:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])[H:7])([H:8])([H:9])[H:10]>>[C:1]([O:6][C:5](/[C:4]([C:2]([H:11])([H:12])[H:13])=[N:3]/[H:7])([H:14])[H:15])([H:8])([H:9])[H:10],47.33232499998934
MR_114559_1,[C:1]1([H:8])([H:9])[N:2]([H:6])[N:3]([H:7])[C:4]([H:10])[N:5]1>>[C:1]1([H:8])([H:9])[N:2]([H:6])[N:5]1[C:4]([N:3][H:7])[H:10],66.6216750000126
MR_229697_0,[C:1]([C:2]([H:15])([H:16])[H:17])([O:6][C:3](/[C:4]([N:5]([H:9])[H:10])=[N:8]/[H:12])=[N:7]/[H:11])([H:13])[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:7]([C:3](/[C:4]([N:5]([H:9])[H:10])=[N:8]/[H:12])=[O:6])[H:11])([H:13])[H:14],48.38652500000293
MR_476229_1,[C:1](/[N:7]=[C:5]([C:3](\[N:4]([H:8])[H:9])=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])/[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:7]1[C:5]([H:10])=[C:3]([N:4]([H:8])[H:9])[C:6]1([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],53.68576249999961
MR_479800_1,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([C:5]([C:4]([O:7][H:10])=[O:9])=[C:6]([H:17])[H:18])[H:12])([O:8][H:11])[H:13]>>[C:1]([N:3]([C:5]([C:4]([C:2]([H:14])([H:15])[H:16])([O:7][H:10])[O:9][H:11])=[C:6]([H:17])[H:18])[H:12])(=[O:8])[H:13],73.09747499999929
MR_576171_0,[C:1]1([C:4]([C:3]([O:7][H:11])=[O:8])=[O:9])([H:12])[N:2]([O:6][H:10])[O:5]1>>[C:1](=[N:2]/[O:6][H:10])(\[O:5][C:4]([C:3]([O:7][H:11])=[O:8])=[O:9])[H:12],25.9533999999627
MR_101054_0,[C:1]([C:2]([O:3][H:5])([O:4][H:14])[C:11]([C:9]([H:17])([H:18])[H:19])([C:10]([O:12][H:15])=[O:13])[H:16])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:4])[C:11]([C:9]([H:17])([H:18])[H:19])([C:10]([O:3][H:5])([O:12][H:15])[O:13][H:14])[H:16])([H:6])([H:7])[H:8],44.54183250000781
MR_59731_2,[C:1]1([N:5]([H:7])[H:8])([H:6])[C:2]([H:9])([H:10])[N:4]1[C:3]([H:11])([H:12])[H:13]>>[C:1](=[C:2]([H:9])[H:10])([N:4]([C:3]([H:11])([H:12])[H:13])[H:6])[N:5]([H:7])[H:8],25.816605000004884
MR_73077_0,[C:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]/[N:3]([H:8])[H:9])([O:5][H:7])([H:12])[H:13]>>[C:1](=[C:2](\[N:4]([H:10])[H:11])[N:6]([N:3]([H:8])[H:9])[H:13])(\[O:5][H:7])[H:12],63.9748799999893
MR_248460_0,[C:1](/[N:8]=[C:5](/[C:2]([H:14])([H:15])[H:16])[C:6](/[C:4](=[N:3]/[H:10])[O:7][H:9])([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1](/[N:8]=[C:5](/[C:2]([H:14])([H:15])[H:16])[N:3]([C:4](=[C:6]([H:17])[H:18])[O:7][H:9])[H:10])([H:11])([H:12])[H:13],62.72678250000155
MR_532233_0,[C:1]([N:2](/[C:3](=[C:4](\[O:5][H:8])[H:10])[H:9])[N:6]=[O:7])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[C:3](\[C:4]([O:5][H:8])([N:6]=[O:7])[H:10])[H:9])([H:11])([H:12])[H:13],39.444650000000365
MR_373033_0,[C:1]1([O:7]/[C:5]([C:3]([H:13])([H:14])[H:15])=[C:6](/[C:4]([H:16])([H:17])[H:18])[H:12])([H:9])[C:2]([H:10])([H:11])[O:8]1>>[C:1]1([O:7]/[C:5]([C:3]([H:13])([H:14])[H:15])=[C:6](/[C:4]([H:16])([H:17])[H:18])[H:12])([H:9])[C:2]([H:10])([H:11])[O:8]1,67.92687499999886
MR_67037_0,[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[N:8](/[C:4]([N:6]([H:9])[H:10])=[N:7]/[C:2]([H:14])([H:15])[H:16])[H:11])([H:12])[H:13]>>[C:1](/[C:4]([N:6]([H:9])[H:10])=[N:7]/[C:2]([H:14])([H:15])[H:16])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:8]/[H:11])([H:12])[H:13],68.7740000000359
MR_413786_0,[C:1]1([H:10])([H:11])[N:4]([C:2]([H:12])([H:13])[H:14])[C:5]1([C:3]([H:15])([H:16])[H:17])[O:7][C:6](=[O:8])[H:9]>>[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[C:6](=[O:8])[H:9])([C:5]([C:3]([H:15])([H:16])[H:17])=[O:7])([H:10])[H:11],32.24722500001647
MR_265443_0,[C:1]1(/[C:6]([C:2]([H:12])([H:13])[H:14])=[C:7](\[C:3]([H:17])([H:18])[H:19])[H:11])([H:10])[N:4]([H:9])[C:5]1=[C:8]([H:15])[H:16]>>[C:1](\[N:4]([C:5](=[C:8]([H:15])[H:16])[H:19])[H:9])(=[C:6](/[C:2]([H:12])([H:13])[H:14])[C:7](=[C:3]([H:17])[H:18])[H:11])[H:10],45.3299725000511
MR_147066_1,[C:1]([C:3](=[C:4](/[O:7][H:8])[H:9])/[C:5](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:5]([H:10])[C@:6]([C:2]([H:15])([H:16])[H:17])([H:11])[C@:4]1([O:7][H:8])[H:9])([H:12])([H:13])[H:14],50.96555000001899
MR_693790_0,[C:1]([C:2]([N:5][H:7])[H:10])([O:3][O:4][H:6])([H:8])[H:9]>>[C:1]([O:3]/[C:2](=[N:5]\[H:7])[H:10])([O:4][H:6])([H:8])[H:9],64.65571750001814
MR_599643_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[O:6][H:8])([N:5]([H:10])[H:11])[O:7][H:9]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[O:7][H:9])([N:5]([H:10])[H:11])[O:6][H:8],64.74168500001511
